US05498772
Synthesis of 1-[3-(p-hydroxyphenylthio)-propanamido ]-1-n-octadecanoylaminomethane
Into a 200-ml flask equipped with a stirrer and a condenser were charged 8.0 g of 3-(p-hydroxyphenylthio)propanamide, 10.6 g of N-hydroxymethyl-n-octadecanamide, 5 drops of concentrated hydrochloric acid and 120 ml of tetrahydrofuran, and stirred with heating at 60° C. for 5 hours. The reaction mixture was cooled to room temperature and then poured into 300 ml of distilled water. The white crystals precipitated were collected by filtration and recrystallized from isopropanol to obtain 12.0 g of the desired compound. Melting point: 172° C.

reactant | 3-(p-hydroxyphenylthio)propanamide | 8.0 g | OC1=CC=C(C=C1)SCCC(=O)N | C9H11NO2S
reactant | N-hydroxymethyl-n-octadecanamide | 10.6 g | OCNC(CCCCCCCCCCCCCCCCC)=O | C19H39NO2
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 1-[3-(p-hydroxyphenylthio)-propanamido ]-1-n-octadecanoylaminomethane | 12.0 g | OC1=CC=C(C=C1)SCCC(=O)NCNC(CCCCCCCCCCCCCCCCC)=O | C28H48N2O3S
